US06894061B2
2-Hydroxy-5-[(6-methylphenanthridin-5(6H)-yl)sulfonyl]benzoic acid
A stirred solution of phenanthridine (7.16 g, 40 mmol) in anhydrous diethyl ether (40 mL) was cooled to −30° C., and treated drop-wise under nitrogen via syringe with a solution of 1.4 M methyllithium in diethyl ether (30 mL, 42 mmol). The yellow solution was warmed to room temperature and stirred for 15 minutes. The mixture was cooled to −78° C., and treated with 5-(chlorosulfonyl)-2-hydroxybenzoic acid (9.47 g, 40 mmol) as a solid in a single aliquot. The reaction mixture was diluted with anhydrous tetrahydrofuran (40 mL), warmed to room temperature, and a solution of N,N-diisopropylethylamine (25.85 g, 200 mmol) in anhydrous dimethylformamide (40 mL) was added. After stirring at room temperature overnight, the reaction mixture was poured into a 1 N hydrochloric acid solution, and extracted with ethyl acetate. The organic phase was washed sequentially with a 1 N aqueous hydrochloric acid solution, water, and a saturated, aqueous, sodium chloride solution. After drying over anhydrous sodium sulfate, the organic phase was filtered and the solvent evaporated in vacuo to yield a crude yellow solid (3.4 g, 21%). The crude solid (1.0 g) was purified by reverse phase preparative chromatography on a Primesphere® 10 C-18 column (25 cm×5 cm), eluting with 56% acetonitrile in water with 0.1% trifluoroacetic acid at a flow rate of 90 mL/min. After evaporation of the acetonitrile solvent, the aqueous phase was extracted with ethyl acetate. The organic phase was washed sequentially with water and a saturated, aqueous, sodium chloride solution, dried over anhydrous sodium sulfate, and the solvent evaporated in vacuo to a colorless solid. Crystallization of the colorless solid from a mixture of diethyl ether-hexane yielded the title compound (0.46 g, 1.16 mmol) as a homogeneous, colorless, crystalline solid, m.p. 225-230° C.;

reactant | phenanthridine | 40 mmol, 7.16 g | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | methyllithium | 1.4 M | C[Li]
reactant | 5-(chlorosulfonyl)-2-hydroxybenzoic acid | 40 mmol, 9.47 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O | C7H5ClO5S
reactant | N,N-diisopropylethylamine | 200 mmol, 25.85 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 42 mmol, 30 mL | C(C)OCC | C4H10O
product | 2-Hydroxy-5-[(6-methylphenanthridin-5(6H)-yl)sulfonyl]benzoic acid | 1.16 mmol, 0.46 g | OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C | C21H17NO5S
